US06211245B1
3-Fluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one
A mixture of 2-[2-(4-fluorophenyl)ethyl]benzoic acid (4.00 g, 16.4 mmol, 1 equiv) and oxalyl chloride (2.0 mL, 2.9 g, 23 mmol, 1.4 equiv) in CH2Cl2 (50 mL) was refluxed for 30 min. The resulting solution was then added to a stirring suspension of aluminum chloride (3.0 g, 2.2 mmol, 1.4 equiv) in CH2Cl2 (50 mL). This mixture was refluxed for 1 h. The reaction mixture was then washed with 1N HCl (3×50 mL), aq. satd. NaCl (1×50 mL), and H2O (1×50 mL). The organic layer was dried (anh. Na2SO4) and rotary evaporated (75° C.) to provide 3.7 g of a dark-brown oil. This oil was flash chromatographed (20:1 hexane/EtOAc) through flash silica gel (250 mm×25 mm). Evaporation of the combined fractions of interest provided 1.58 g (42.6%) of the desired product as a yellow oil.

reactant | 2-[2-(4-fluorophenyl)ethyl]benzoic acid | 16.4 mmol, 4.00 g, 1 equiv | FC1=CC=C(C=C1)CCC1=C(C(=O)O)C=CC=C1 | C15H13FO2
reactant | oxalyl chloride | 23 mmol, 2.0 mL, 2.9 g, 1.4 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 2.2 mmol, 3.0 g, 1.4 equiv | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 3.7 g | FC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C1 | C15H11FO
